US04600783
EXAMPLE 3 (ACEMETACIN SINGLE-DROP PROCESS)
25 g of indometacin, 10 g of potassium carbonate and 190 ml of acetone are stirred at 56° C. for 30 minutes. The mixture is cooled down to 40° C., 0.5 g of benzyltriethylammonium chloride is added, and 15.6 g of tert.-butyl chloroacetate are added dropwise. After 5 hours at 40° C. the reaction is complete (monitored by thin layer chromatography). The mixture is cooled down to 10° C. and 20 ml of concentrated sulphuric acid are then added dropwise in such a way that the temperature does not exceed 25° C. The mixture is stirred at 20° and 25° C. for 6 hours (monitored by thin layer chromatography), about 500 ml of water are added, and the solids are filtered off with suction, are dried in vacuo and are recrystallized from acetone-water.

reactant | indometacin | 25 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert.-butyl chloroacetate | 15.6 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
catalyst | benzyltriethylammonium chloride | 0.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | about 500 ml | O | H2O
solvent | acetone | 190 ml | CC(=O)C | C3H6O
product | ACEMETACIN | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)OCC(=O)O | C21H18ClNO6
